US06759554B2
2-[Ethyl-(2-methoxyphenyl)amino] ethanol
A 15 mL screw top test tube fitted with a PTFE septum cap was purged with argon before addition of CuI (5.0 mg, 0.026 mmol, 2.6 mol %) and NaOH (83.0 mg, 2.08 mmol). 2-(aminoethyl)-ethanol (101 μL, 1.04 mmol), 2-iodoanisole (162 μL, 1.25 mmol) and isopropyl alcohol (1.0 mL) were added, via syringe, under argon. The septum cap was replaced with a solid, Teflon-lined cap and the reaction was stirred magnetically at 90° C. for 48 h. The resulting homogeneous solution was allowed to cool before dilution with 10 mL brine. The reaction mixture was transferred to a separatory funnel and extracted with methylene chloride (3×10 mL). The organics were washed with 0.1 M NaOH (2×10 mL), washed with brine (1×15 mL), dried over MgSO4 and concentrated. The crude material was purified by silica gel chromatography using methylene chloride/ethyl acetate (70:30). The product was obtained as a pale yellow, viscous oil in 72% yield (145.8 mg).

reactant | NaOH | 2.08 mmol, 83.0 mg | [OH-].[Na+]
reactant | 2-(aminoethyl)-ethanol | 1.04 mmol, 101 μL | NCCCCO | C4H11NO
reactant | 2-iodoanisole | 1.25 mmol, 162 μL | IC1=C(C=CC=C1)OC | C7H7IO
reactant | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | CuI | 0.026 mmol, 5.0 mg | [Cu]I
product | 2-[Ethyl-(2-methoxyphenyl)amino] ethanol | 72% yield | C(C)N(CCO)C1=C(C=CC=C1)OC | C11H17NO2
